US08648086B2
1-(2-Methoxyl-5-chlorophenyl)-3-[1-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-1H-indol-4-yl]urea hydrochloride
To a solution of 4-[(4-amino-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine (450 mg) in DCM was added 5-chloro-2-methoxyphenyl isocyanate (Int-4, 275 mg, 1.5 mmol). The mixture was stirred overnight, then concentrated, and purified by flash column chromatography to give the desired product 1-(2-methoxyl-5-chlorophenyl)-3-{1-[1-(t-butyloxycarbonyl)-1H-pyrrolo[2, 3-1)]pyridin-4-ylmethyl]-1H-indol-4-yl}urea (540 mg, 80% for two steps).

reactant | 4-[(4-amino-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine | 450 mg | NC1=C2C=CN(C2=CC=C1)CC1=C2C(=NC=C1)N(C=C2)C(=O)OC(C)(C)C | C21H22N4O2
reactant | 5-chloro-2-methoxyphenyl isocyanate | 1.5 mmol, 275 mg | ClC=1C=CC(=C(C1)N=C=O)OC | C8H6ClNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2-Methoxyl-5-chlorophenyl)-3-[1-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-1H-indol-4-yl]urea hydrochloride | Cl.O(C)C1=C(C=C(C=C1)Cl)NC(=O)NC1=C2C=CN(C2=CC=C1)CC1=C2C(=NC=C1)NC=C2 | InChI=1S/C24H20ClN5O2.ClH/c1-32-22-6-5-16(25)13-20(22)29-24(31)28-19-3-2-4-21-18(19)9-12-30(21)14-15-7-10-26-23-17(15)8-11-27-23;/h2-13H,14H2,1H3,(H,26,27)(H2,28,29,31);1H
